US09193720B2
A mixture of (S)-ethyl 2-(5-bromo-4-(4,4-dimethylpiperidin-1-yl)-2,6-dimethylpyridin-3-yl)-2-(tert-butoxy)acetate (0.0433 g, 0.095 mmol), (4-((2-methoxybenzyl)oxy)phenyl)boronic acid (0.037 g, 0.143 mmol) and 2M Na2CO3 (0.119 ml, 0.238 mmol) in DMF (2 mL) was degassed for 10 min. Then, Pd(Ph3P)4 (10.99 mg, 9.51 μmol) was added, degassed for 5 min and placed in a oil bath pre-heated to 110° C. After 2 h, cooled and purified by pre-HPLC to afford (S)-ethyl 2-(tert-butoxy)-2-(4-(4,4-dimethylpiperidin-1-yl)-5-(4-((2-methoxybenzyl)oxy)phenyl)-2,6-dimethylpyridin-3-yl)acetate (0.038 g, 0.065 mmol, 67.9% yield) as white solid. 1H NMR (500 MHz, CDCl3) δ 7.51 (dd, J=1.6, 7.4 Hz, 1H), 7.34 (dt, J=1.7, 7.8 Hz, 1H), 7.15-7.18 (m, 1H), 7.04-7.10 (m, 3H), 7.01 (dt, J=0.9, 7.5 Hz, 1H), 6.96 (d, J=8.2 Hz, 1H), 6.03 (br. s., 1H), 5.17-5.25 (m, 2H), 4.23-4.31 (m, 1H), 4.19 (qd, J=7.1, 10.7 Hz, 1H), 3.91 (s, 3H), 3.05-3.28 (m, 1H), 2.87 (br. s., 1H), 2.66 (br. s., 3H), 2.28 (br. s., 3H), 1.95-2.15 (m, 1H), 1.27 (t, J=7.1 Hz, 3H), 1.20 (s, 9H), 0.9 (br.s., 3H), 0.68 (br. s., 3H). 5H of piperidine were not resolved. LCMS (M+H)=589.4.

reactant | (S)-ethyl 2-(5-bromo-4-(4,4-dimethylpiperidin-1-yl)-2,6-dimethylpyridin-3-yl)-2-(tert-butoxy)acetate | 0.095 mmol, 0.0433 g | BrC=1C(=C(C(=NC1C)C)[C@@H](C(=O)OCC)OC(C)(C)C)N1CCC(CC1)(C)C | C22H35BrN2O3
reactant | (4-((2-methoxybenzyl)oxy)phenyl)boronic acid | 0.143 mmol, 0.037 g | COC1=C(COC2=CC=C(C=C2)B(O)O)C=CC=C1 | C14H15BO4
reactant | Na2CO3 | 0.238 mmol, 2M, 0.119 ml | C(=O)([O-])[O-].[Na+].[Na+]
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
catalyst | Pd(Ph3P)4 | 9.51 μmol, 10.99 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | (S)-ethyl 2-(tert-butoxy)-2-(4-(4,4-dimethylpiperidin-1-yl)-5-(4-((2-methoxybenzyl)oxy)phenyl)-2,6-dimethylpyridin-3-yl)acetate | 0.065 mmol, 0.038 g, 67.9% yield | C(C)(C)(C)O[C@H](C(=O)OCC)C=1C(=NC(=C(C1N1CCC(CC1)(C)C)C1=CC=C(C=C1)OCC1=C(C=CC=C1)OC)C)C | C36H48N2O5
